Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Fosamax / Tamoxifen / Prevacid 
/ Anusol HC-1 / Actonel / Flagyl / Amitriptyline / Iodine-Iodine 
Containing / Aspirin / adhesive tape / canned high calorie 
drinks / Gastrocrom / Boniva
 
Attending: ___
 
Chief Complaint:
30-minute episode of right visual field changes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old right handed woman with history
of breast cancer and asthma who presents with 30 minutes of
visual changes this morning, now resolved. The patient was
standing in her kitchen not doing anything out of the ordinary
when she noticed that she could see irregular colored shapes 
when
she closed her eyes, shaped like a circle in the right visual
field (covered each eye to check). The circle grew in diameter
and developed a central clearing, then migrated up towards the
top of her visual field, at which point she maybe was able to 
see
it with her eyes open as well, but she is not sure. The colors
were moving and shimmering. She was otherwise able to see
perfectly normally without blurriness or double vision or
constriction of her visual fields. She did not develop any
headache surrounding or following this episode. Within 30 
minutes
the colored spots had resolved and she had no residual visual
changes. The patient has not recently been ill but reports her
asthma is worsening in the context of dust particles due to
nearby construction. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.
 
Past Medical History:
? KIDNEY STONES                                                 
? SHINGLES                                                      
ALLERGIC RHINITIS                                               
ASTHMA                                                          
ASTHMA                                                          
BONIVA                                                          
BREAST CANCER                                                   
CHEST PAIN                                                      
DIARRHEA                                                        
DIVERTICULITIS                                                  
ECZEMA                                                          
FATIGUE                                                         
FLEXHALER SCRIPT                                                
G6PD DEFICIENCY                                                 
GASTROESOPHAGEAL REFLUX                                         
GASTROESOPHAGEAL REFLUX                                         
GASTROINTESTINAL                                                
KNEE PAIN                                                       
NIGHT SWEATS                                                    
OSTEOPOROSIS                                                    
PSYCHOSOCIAL                                                    
RECTAL BLEEDING                                                 
S/P EXCISION MELANOMA IN SITU                                   
SICCA                                                           
PANCREAS CYST                                                   
WEIGHT LOSS                                                     
FOOD INTOLERANCES 
 
Social History:
___
Family History:
Mother, Grandmother with ___          
 
Physical Exam:
Exam on Admission:

PHYSICAL EXAMINATION
 Vitals: 98.1 PO 163 / 72 L Lying 84 16 93 Ra  
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 Neck: Supple
 ___: RRR
 Pulmonary: CTAB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, or vibration 
bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    3   2
 R  2  2    2    2   2
+pectoralis jerks bilaterally
 Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - deferred

Exam on Discharge:

PHYSICAL EXAMINATION
VSS
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 ___: RRR
 Lungs: CTAB, no wheezes, good air movement in all lung fields
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained.  Speech is fluent 
with full sentences, intact repetition,and intact verbal 
comprehension.  Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, or vibration 
bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    3   2
 R  2  2    2    2   2
+pectoralis jerks bilaterally
 Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - deferred

 
Pertinent Results:
___ 11:21AM BLOOD WBC-8.7# RBC-4.52 Hgb-14.5 Hct-45.1* 
MCV-100* MCH-32.1* MCHC-32.2 RDW-11.7 RDWSD-42.6 Plt ___
___ 01:55PM BLOOD Triglyc-180* HDL-50 CHOL/HD-4.0 
LDLcalc-113
___ 01:55PM BLOOD %HbA1c-4.1 eAG-71

IMAGING

FINDINGS: 
 
MRI BRAIN:
There is no acute infarction, edema, mass effect, or evidence of 
blood
products.  There is mild confluent T2 hyperintensity in the 
periventricular
white matter, and scattered foci of high T2 signal in the deep 
white matter,
for example in the left corona radiata on image 13:14, and in 
the subcortical
white matter, for example in the right temporal lobe on image 
13:12.  These
nonspecific findings may represent sequela of minimal chronic 
small vessel
ischemic disease in this age group.  Ventricles, sulci, and 
basal cisterns are
normal in size for age.
 
There are dependent aerosolized secretions in the right 
maxillary sinus,
similar to the ___ CT.
 
MRA NECK:
 
The great vessel origins are only partially imaged.  Evaluation 
of the
mediastinal and proximal cervical course of the common carotid 
and vertebral
arteries.  There remaining cervical courses appear widely 
patent.  Mild
irregularity in the proximal right internal carotid artery may 
be related to
atherosclerosis versus artifact of 2D technique.  There is no 
evidence for
internal carotid stenosis by NASCET criteria.
 
MRA BRAIN:
There is multifocal pulsation artifact, most extensive through 
the anterior
suprasellar cistern, affecting bilateral M1, A2 and A1 segments, 
as well as
MCA branches.  Apparent diminished flow in the left MCA branches 
compared to
the right may be artifactual or related to atherosclerosis.  
There is normal
variant anatomy of the anterior cerebral arteries with mild 
hypoplasia of the
right A1 and A2 segments.  Left A2 segment probably gives 
branches to some of
the right ACA territory branches, but this is not fully included 
on the
images.  There is also fetal configuration of the left posterior 
cerebral
artery.  There is no evidence for an aneurysm.
 
 
IMPRESSION:
1. No acute infarction.  Essentially unremarkable noncontrast 
brain MRI for
age.
2. Allowing for the technical limitations of the 2D 
time-of-flight technique
of the neck MRA, no flow-limiting stenosis is seen in the major 
cervical
arteries.  Mild right proximal internal carotid atherosclerosis 
versus
artifact.
3. Multifocal pulsation artifact on brain MRA.  Apparent 
diminished flow in
the left MCA branches compared to the right may be artifactual 
or related to
atherosclerosis.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of breast 
cancer and asthma and undiagnosed migraines who presented with a 
new ocular migraine change that was initially concerning for a 
stroke. Stroke work-up was negative and she was discharged to 
home in stable condition without further medical intervention.

Transitional issues:

non-fasting LDL 116 - continue discussions re: starting statin 
in outpatient setting with PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO Frequency is Unknown 
2. Magnesium Oxide 250 mg PO DAILY 
3. Fexofenadine 180 mg PO QAM 
4. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN 
irritation 
5. Mupirocin Ointment 2% 1 Appl NU BID 
6. wheat dextrin 3 gram/3.5 gram oral Q8H:PRN constipation 
7. mometasone 50 ucg  ucg inhalation Q12H 
8. Ranitidine 150 mg PO BID 
9. Albuterol Sulfate (Extended Release) 90 mcg PO Q6H:PRN SOB 
10. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q8H 
11. Vitamin D 1000 UNIT PO DAILY 
12. Budesonide Nasal Inhaler 180 mcg/actuation nasal Q8H:PRN 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO Q6H  
2.  mometasone 50 ucg nasal Q12H asthma  
3.  Albuterol Sulfate (Extended Release) 90 mcg PO Q6H:PRN SOB  
4.  Budesonide Nasal Inhaler 180 ucg nasal Q8H:PRN asthma  
5.  Fexofenadine 180 mg PO QAM  
6.  Magnesium Oxide 250 mg PO DAILY  
7.  Mupirocin Ointment 2% 1 Appl NU BID  
8.  Ranitidine 150 mg PO BID  
9.  Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H  
10.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN 
irritation  
11.  Vitamin D 1000 UNIT PO DAILY  
12.  wheat dextrin 3 gram/3.5 gram oral Q8H:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ocular migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 ___ were hospitalized due to visual changes that were initially 
concerning for a stroke. We performed an extensive workup and 
found no signs to suggest that ___ had a stroke. Your brain 
imaging did not show any signs of compromised blood supply or 
damage to brain tissue. We looked into your pupils on our 
neurology exam and found no damage to the back of your eye. As 
such, we think your brief visual change was a type of migraine 
known as an ocular migraine.

Ocular migraines are painless visual phenomena that can 
sometimes be accompanied by migraine headaches or occur in the 
setting of a known history of migraines. ___ endorsed having a 
history of headaches that are sensitive to light - while not 
diagnosed officially, the headaches that ___ describe sound like 
migraines. We recommend that ___ follow-up with Neurology for 
management of your migraines.

We made no changes to your medications.  

 Please follow up with Neurology and your primary care physician 
as listed below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___